US07592373B2
tert-butyl 4-({-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl}methylamino)piperidine-1-carboxylate
0.5 g (2.34 mmol) of tert-butyl 4-methylaminopiperidine-1-carboxylate is added to a suspension of 300 mg (0.79 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide in 5 mL of DMF and the mixture is stirred for 18 hours at 80° C. Then the reaction mixture is poured onto water and the precipitate formed is suction filtered. Further purification is carried out by stirring out from a little methanol. Yield: 200 mg (45% of theory); C33H38ClN3O3 (M=560.13); melting point: 168° C.-169° C.; calc.: molecular ion peak (M+H)+: 560/562 (Cl); found: molecular ion peak (M+H)+: 560/562 (Cl).

reactant | tert-butyl 4-methylaminopiperidine-1-carboxylate | 2.34 mmol, 0.5 g | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide | 0.79 mmol, 300 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CCl)=O | C22H17Cl2NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-({-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl}methylamino)piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)/C=C/C(C1=CC=CC=C1)CNC1CCN(CC1)C(=O)OC(C)(C)C | C33H38ClN3O3
